US07338960B2
6-Bromo-N-methoxy-N-methylpyridine-2-carboxamide
To a slurry of 6-bromopicolinic acid (5.44 g, 26.93 mmol) in DCM (100 mL) was added a solution of CDI (5.67 g, 34.97 mmol) in DCM (70 mL) drop-wise over 15 minutes under nitrogen. The solution cleared a little during the addition but remained cloudy and after 1 hour at rt the mixture was treated drop-wise over 15 minutes with N,O-dimethylhydroxylamine [solution in DCM prepared by treating N,O-dimethylhydroxylamine hydrochloride (5.35 g, 53.82 mmol) with aqueous NaOH (2M, 100 mL) and extracting with DCM (2×100 mL)]. The mixture cleared during the addition and the resulting clear pale yellow solution was left to stir under nitrogen for 20 hours. The mixture was then reduced under vacuum and the residue partitioned between EtOAc (125 mL) and saturated aqueous NaHCO3 (125 mL). The layers were then separated and the organic layer washed with brine (125 mL), dried (MgSO4), filtered and reduced to give the title compound as a yellow oil (5.29 g).

reactant | 6-bromopicolinic acid | 26.93 mmol, 5.44 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | CDI | 34.97 mmol, 5.67 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N,O-dimethylhydroxylamine | 53.82 mmol, 2M, 100 mL, 5.35 g | CNOC | C2H7NO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-N-methoxy-N-methylpyridine-2-carboxamide | 5.29 g | BrC1=CC=CC(=N1)C(=O)N(C)OC | C8H9BrN2O2
